US07244866B2
A sample of 3-[(1-RS,2-RS)-2-[(dimethylamino)methyl]-1-hydroxycyclohexyl]-benzoic acid (0.1 g, 0.36 mmol), CH2Cl2 (5 mL), and diethylamine (0.08 mL, 0.36 mmol) was placed into a flask and stirred for 5 min. To the reaction was added HATU (0.13 g, 0.36 mmol) and stirring was continued for 2 h. Water was added and the organic phase was separated, washed again with water, dried (Na2SO4), and filtered. The filtrate was evaporated in vacuo and the residue passed through a silica gel column (90:10:1, CH2Cl2:MeOH:NH4OH) to give 42 mg (35%) of 3-[(1-RS,2-RS)-2-[(dimethylamino)methyl]-1-hydroxycyclohexyl]-N,N-diethyl-benzamide: MS m/z=333 (MH+); 1H NMR (CDCl3) δ 7.7-7.2 (Ar, 4H), 3.6 and 3.2 (bq, 4H), 2.4 (dd, 1H), 2.1 (s, 6H), 2.0-1.5 (m, 10H), 1.1 (bt, 6H).

reactant | 3-[(1-RS,2-RS)-2-[(dimethylamino)methyl]-1-hydroxycyclohexyl]-benzoic acid | 0.36 mmol, 0.1 g | CN(C)CC1C(CCCC1)(O)C=1C=C(C(=O)O)C=CC1 | C16H23NO3
reactant | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
reactant | diethylamine | 0.36 mmol, 0.08 mL | C(C)NCC | C4H11N
reactant | HATU | 0.36 mmol, 0.13 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | Water | O | H2O
product | 3-[(1-RS,2-RS)-2-[(dimethylamino)methyl]-1-hydroxycyclohexyl]-N,N-diethyl-benzamide | 42 mg, 35% | CN(C)CC1C(CCCC1)(O)C=1C=C(C(=O)N(CC)CC)C=CC1 | C20H32N2O2
